US04268676
1,1a,2,8,8a,8b-Hexahydro-8-(hydroxymethyl)-8a-methoxy-1,5-dimethyl-6-cyclopropylamino-azirino[2',3':3,4]pyrrolo[1,2-a]indole-4,7-dione carbamate
To a solution of 75 mg (0.2 mmol) of N-methylmitomycin A in 10 ml of anhydrous methanol, 2 ml of cyclopropylamine was added with stirring. The reaction mixture was stirred overnight, whereupon TLC indicated no remaining starting material. The solvent was then evaporated under reduced pressure and the residue was chromatographed using silica-gel as adsorbent. The fraction obtained by eluting the column with ethyl acetate was evaporated under reduced pressure. Recrystallization from a mixture of methylene chloride and hexane gave 47.8 mg (59.7% yield) of the desired product as purple-colored crystals having a melting point of 166°-167° (decomposing) and providing the following analysis:

reactant | N-methylmitomycin A | 0.2 mmol, 75 mg | CC1=C(C(=O)C2=C(C1=O)N3C[C@H]4[C@@H]([C@@]3([C@@H]2COC(=O)N)OC)N4C)OC | C17H21N3O6
reactant | cyclopropylamine | 2 ml | C1(CC1)N | C3H7N
solvent | methanol | 10 ml | CO | CH4O
product | 1,1a,2,8,8a,8b-Hexahydro-8-(hydroxymethyl)-8a-methoxy-1,5-dimethyl-6-cyclopropylamino-azirino[2',3':3,4]pyrrolo[1,2-a]indole-4,7-dione carbamate | 47.8 mg, 59.7% yield | C(N)(O)=O.OCC1C2(N(C=3C(C(=C(C(C13)=O)NC1CC1)C)=O)CC1C2N1C)OC | InChI=1S/C18H23N3O4.CH3NO2/c1-8-13(19-9-4-5-9)16(24)12-10(7-22)18(25-3)17-11(20(17)2)6-21(18)14(12)15(8)23;2-1(3)4/h9-11,17,19,22H,4-7H2,1-3H3;2H2,(H,3,4)
